US05955320
This enzyme is reacted with the starting compound, di-N-acetylchitobiose, whereby only the acetyl group of the N-acetylglucosamine residue positioned at the non-reducing terminal of said di-N-acetylchitobiose is removed to convert said residue to a glucosamine residue, thereby obtaining the intended product, 2-acetylamino-4-O-(2-amino-2-deoxy-β-D-glucopyranosyl)-2-deoxy-D-glucose.

reactant | di-N-acetylchitobiose | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](O[C@H]1O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)NC(=O)C)O)CO)O)O | C16H28N2O11
reactant | N-acetylglucosamine | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
product | 2-acetylamino-4-O-(2-amino-2-deoxy-β-D-glucopyranosyl)-2-deoxy-D-glucose | C(C)(=O)N[C@@H](C=O)[C@@H](O)[C@H](O[C@H]1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)N)[C@H](O)CO | C14H26N2O10
